US07524813B2
At −78° C., oxalyl chloride (0.142 ml, 1.63 mmol) was added dropwise to a solution of dimethyl sulphoxide (0.232 ml. 3.26 mmol) in dichloromethane (5 ml). The reaction mixture was stirred for 10 min at −78° C. A solution of N-(3-(hydroxymethyl)benzyl)succinamic acid tert-butyl ester (372 mg, 1.55 mmol) in dichloromethane (5 ml) was added. The reaction mixture was stirred at −78° C. for 10 min. Triethylamine (1.08 ml, 7.77 mmol) was added. The reaction mixture was stirred at −78° C. for 5 min and then warmed to room temperature. It was stirred at room temperature for 40 min and diluted with ethyl acetate (100 ml). It was washed with a 10% aqueous solution of sodium hydrogensulphate (100 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (150 ml) and dried over magnesium sulphate. The solvent was removed to give 312 mg of crude N-(3-formylbenzyl)succinamic acid tert-butyl ester, which was used for the next step without further purification.

reactant | oxalyl chloride | 1.63 mmol, 0.142 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 3.26 mmol, 0.232 ml | CS(=O)C | C2H6OS
reactant | N-(3-(hydroxymethyl)benzyl)succinamic acid tert-butyl ester | 1.55 mmol, 372 mg | C(C)(C)(C)OC(CCC(=O)NCC1=CC(=CC=C1)CO)=O | C16H23NO4
reactant | Triethylamine | 7.77 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-formylbenzyl)succinamic acid tert-butyl ester | 312 mg | C(C)(C)(C)OC(CCC(=O)NCC1=CC(=CC=C1)C=O)=O | C16H21NO4
